US06602864B1
6-Chloro-benzo[b]thiophene-2-sulfonic Acid [1-(4-Chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide
The title compound is prepared as described in EXAMPLE 1, Part K using 6-chloro-benzo[b]thiophene-2-sulfonyl chloride and 3-amino-1-(1-benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-pyrrolidin-2-one hydrochloride as the starting material. The crude product is purified by column chromatography eluting with a gradient of 1% MeOH/CH2Cl2 to 3% MeOH/CH2Cl2 to give the product as a white solid.

reactant | 6-chloro-benzo[b]thiophene-2-sulfonyl chloride | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
reactant | 3-amino-1-(1-benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-pyrrolidin-2-one hydrochloride | Cl.NC1C(N(CC1)CC1=CC=2C(=NC=CC2N1S(=O)(=O)C1=CC=CC=C1)Cl)=O
product | 6-Chloro-benzo[b]thiophene-2-sulfonic Acid [1-(4-Chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | ClC1=NC=CC2=C1C=C(N2)CN2C([C@H](CC2)NS(=O)(=O)C2=CC1=C(S2)C=C(C=C1)Cl)=O | C20H16Cl2N4O3S2
